US06878714B2
3-Nitro-5-trifluoromethyl-phenol (8.81 g) was dissolved in THF (76 ml). 1-Boc-4-hydroxy-piperidine (8.81 g, Aldrich) and Ph3P (11.15 g) were added and the solution was cooled to −20° C. A solution of DEAD (6.8 ml, Aldrich) in THF (36 ml) was added dropwise, maintaining the temperature between −20 and −10° C. The reaction was warmed to RT and stirred overnight. The reaction was concentrated in vacuo and triturated with hexane. The yellow solid was removed by filtration and washed with Et2O (25 ml), and hexane. The white filtrate was washed with 1N NaOH (2×), brine (1×) and the hexane layer was dried over Na2SO4, filtered and concentrated in vacuo. The crude material was purified with flash chromatography (SiO2, 5-10% EtOAc/hexane) to obtain 1-Boc-4-(3-nitro-5-trifluoromethyl-phenoxy)-piperidine.

reactant | 3-Nitro-5-trifluoromethyl-phenol | 8.81 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)O | C7H4F3NO3
reactant | 1-Boc-4-hydroxy-piperidine | 8.81 g | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
reactant | Ph3P | 11.15 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 6.8 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 76 ml | C1CCOC1 | C4H8O
solvent | THF | 36 ml | C1CCOC1 | C4H8O
product | 1-Boc-4-(3-nitro-5-trifluoromethyl-phenoxy)-piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C17H21F3N2O5
